US08871782B2
A suspension of 7-(2-aminoethoxy)-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.300 g, 0.958 mmol) in chloroform (10 mL) was cooled to 0° C. 4-Morpholinecarbonyl chloride (0.110 mL, 0.942 mmol) was added dropwise, and the reaction was stirred for five minutes at 0° C. The reaction was then allowed to warm to ambient temperature over a period of 15 minutes, and the solvent was removed under reduced pressure. The resulting off-white solid was dissolved in dichloromethane. The solution was washed sequentially with 10% aqueous sodium hydroxide, water, and brine; dried over magnesium sulfate; filtered; and concentrated under reduced pressure. The residue was recrystallized from acetonitrile to provide 0.150 g of N-(2-{[4-amino-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethyl)morpholine-4-carboxamide as a white powder, mp 215-219° C. (decomposition).

reactant | 7-(2-aminoethoxy)-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.958 mmol, 0.300 g | NCCOC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)C | C17H23N5O
reactant | 4-Morpholinecarbonyl chloride | 0.942 mmol, 0.110 mL | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(2-{[4-amino-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethyl)morpholine-4-carboxamide | 0.150 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)C)C)OCCNC(=O)N2CCOCC2 | C22H30N6O3
